US06552017B1
6-fluoro-2,3-dihydro-4H-1-benzothiopyran-4-one (100 mg, 0.54 mmol ) was dissolved in acetic acid (0.5 mL, 1.1 eq), sodium azide (71.2 mg, 1.1 mmol) was added and mixture was heated to 50° C. Sulfuric acid (0.13 mL, 4.3 eq) was added slowly and stirred at 50° C. for 1.5 hours. Ice chips (150 mg) were added and a green solid precipitated, this was filtered, washed with water and dried to give 7-fluoro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one (80 mg, 24%). 1H NMR (CDCl3, 300 MHz): δ 7.77 (s-broad, 1H), 7.69 (t, 1H, J=7.3 Hz), 6.94-6.82 (m, 2H), 3.42 (t, 2H, J=7 Hz), 2.63 (t, 2H, J=6.7 Hz) ppm.

reactant | 6-fluoro-2,3-dihydro-4H-1-benzothiopyran-4-one | 0.54 mmol, 100 mg | FC=1C=CC2=C(C(CCS2)=O)C1 | C9H7FOS
reactant | acetic acid | 0.5 mL, 1.1 eq | C(C)(=O)O | C2H4O2
reactant | sodium azide | 1.1 mmol, 71.2 mg | [N-]=[N+]=[N-].[Na+]
reactant | Sulfuric acid | 0.13 mL, 4.3 eq | S(O)(O)(=O)=O | H2O4S
product | 7-fluoro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 80 mg, 24% | FC=1C=CC2=C(NC(CCS2)=O)C1 | C9H8FNOS
